US04956359
3-(3-Bromophenoxy)-N-(2-propynyl)-1-azetidinecarboxamide
A stirred mixture of 5.8 g (0.02 mole) of 3-(3-bromophenoxy)-1-azetidinecarbonyl chloride and 2.8 g (0.02 mole) of potassium carbonate in 20 ml of tetrahydrofuran was treated with 1.1 g (0.02 mole) of 2-propynylamine added dropwise from a needle and syringe. A piece of ice was added and stirring was continued for 42 hr. The solid residue which remained was stirred with 100 ml of water then filtered, yielding 5.3 g of crude product. Recrystallization from ethanol yielded 4.0 g of fine beige crystals, m.p. 145°-147° C. After drying at 100° C. in vacuo, m.p. was 146°-147° C. (64.7%).

reactant | 3-(3-bromophenoxy)-1-azetidinecarbonyl chloride | 0.02 mole, 5.8 g | BrC=1C=C(OC2CN(C2)C(=O)Cl)C=CC1 | C10H9BrClNO2
reactant | potassium carbonate | 0.02 mole, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propynylamine | 0.02 mole, 1.1 g | C(C#C)N | C3H5N
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(3-Bromophenoxy)-N-(2-propynyl)-1-azetidinecarboxamide | 4.0 g | BrC=1C=C(OC2CN(C2)C(=O)NCC#C)C=CC1 | C13H13BrN2O2
